US07037905B2
2-(5-Chlorothiophen-2-yl)-[1,3,6,2]dioxazaborocane
The title compound (28%, crystals) was prepared from 5-chlorothiophen-2-boronic acid and diethanolamin.

reactant | 5-chlorothiophen-2-boronic acid | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(5-Chlorothiophen-2-yl)-[1,3,6,2]dioxazaborocane | 28% | ClC1=CC=C(S1)B1OCCNCCO1 | C8H11BClNO2S
